US05849770
(R)-N-[4-{1-(3-Cyclopentyloxy-4-methoxyphenyl)-2-(4-pyridyl)ethyl}-phenyl]-N'-(phenylsulphonyl) urea, hydrochloride
Benzenesulphonylisocyanate (205 μl) was added dropwise to a solution of 4-[1-(R)-(3-cyclopentyloxy-4-methoxyphenyl)-2-(4-pyridyl)ethyl]aniline (500 mg prepared as described in International Patent specification No. WO95/17386) in dichloromethane (10 ml) under nitrogen at room temperature. The mixture was stirred or 30 min at this temperature and the solvent then removed in vacuo to yield a yellow gum. Trituration with ether furnished a pale yellow solid (the free base of the title compound which was disolved in dichloromethane (5 ml) and treated with ethereal HCl to afford a yellow solid. Subsequent recrystallisation of the solid from methanol yielded the title compound (450 mg) as an off white solid δH (CD3OD) 1.40-1.90 (8H, br m), 3.64 (2H, d, J 9 Hz), 3.72 (3H, s), 4.34 (1H, t, J 9 Hz), 4.72 (1H, m), 6.75 (3H, d+d+s), 7.20 (4H, d+d), 7.50-7.75 (3H, m), 7.72 (2H, d, J 8 Hz), 8.00 (2H, d, J 8 Hz), and 8.55 (2H, d, J 8 Hz).

reactant | Benzenesulphonylisocyanate | 205 μl | C1(=CC=CC=C1)S(=O)(=O)N=C=O | C7H5NO3S
reactant | 4-[1-(R)-(3-cyclopentyloxy-4-methoxyphenyl)-2-(4-pyridyl)ethyl]aniline | 500 mg | C1(CCCC1)OC=1C=C(C=CC1OC)[C@H](CC1=CC=NC=C1)C1=CC=C(N)C=C1 | C25H28N2O2
reactant | ether | CCOCC | C4H10O
reactant | dichloromethane | 10 ml | ClCCl | CH2Cl2
product | (R)-N-[4-{1-(3-Cyclopentyloxy-4-methoxyphenyl)-2-(4-pyridyl)ethyl}-phenyl]-N'-(phenylsulphonyl) urea, hydrochloride | Cl.C1(CCCC1)OC=1C=C(C=CC1OC)[C@H](CC1=CC=NC=C1)C1=CC=C(C=C1)NC(=O)NS(=O)(=O)C1=CC=CC=C1 | InChI=1S/C32H33N3O5S.ClH/c1-39-30-16-13-25(22-31(30)40-27-7-5-6-8-27)29(21-23-17-19-33-20-18-23)24-11-14-26(15-12-24)34-32(36)35-41(37,38)28-9-3-2-4-10-28;/h2-4,9-20,22,27,29H,5-8,21H2,1H3,(H2,34,35,36);1H/t29-;/m1./s1
